US07220856B2
Preparation of 4-[4-(Adamant-1-ylaminocarbonyl)piperazin-1-yl]-7-chloroquinoline
7-Chloro-4-(piperazin-1-yl)quinoline (124 mg, 0.5 mmol) and 1-adamantyl isocyanate (89 mg, 0.5 mmol) in CH2Cl2 (5 mL) are reacted according to method C yielding the title product as a colorless solid after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.5 mmol, 124 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 1-adamantyl isocyanate | 0.5 mmol, 89 mg | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(Adamant-1-ylaminocarbonyl)piperazin-1-yl]-7-chloroquinoline | C12(CC3CC(CC(C1)C3)C2)NC(=O)N2CCN(CC2)C2=CC=NC3=CC(=CC=C23)Cl | C24H29ClN4O
